US07618975B2
(2-Chloro-quinazolin-4-yl)-(4-methoxy-phenyl)-amine
The title compound was prepared from 2,4-dichloroquinazoline (50 mg, 0.251 mmol) and 4-methoxyaniline (45 mg, 0.326 mmol) by a procedure similar to example 1b and was isolated as off white powder (55 mg, 77%). 1H NMR (CDCl3): 10.25 (s, 1H), 8.58 (d, J=8.4 Hz, 1H), 7.88 (t, J=7.2 Hz, 1H), 7.71-7.63 (m, 4H), 7.03-6.99 (m, 2H), 3.79 (s, 3H).

reactant | 2,4-dichloroquinazoline | 0.251 mmol, 50 mg | ClC1=NC2=CC=CC=C2C(=N1)Cl | C8H4Cl2N2
reactant | 4-methoxyaniline | 0.326 mmol, 45 mg | COC1=CC=C(N)C=C1 | C7H9NO
product | (2-Chloro-quinazolin-4-yl)-(4-methoxy-phenyl)-amine | ClC1=NC2=CC=CC=C2C(=N1)NC1=CC=C(C=C1)OC | C15H12ClN3O
